US04169719
Ninety ml of water, 410 ml of conc. HCl, and 68.0 g of lithium 2-furansulfinate were stirred and cooled to 10°-15°. Liquid chlorine (12.3 ml, 39.4 g) was added dropwise over a 30-minute period. The mixture was stirred an additional 30 minutes at 5°, poured onto ice and extracted with methylene chloride. Evaporation of the methylene chloride yielded 44 g 2-furansulfonyl chloride, b.p. 95° at 7 mm Hg;

reactant | HCl | 410 ml | Cl | ClH
reactant | lithium 2-furansulfinate | 68.0 g | O1C(=CC=C1)S(=O)[O-].[Li+]
reactant | chlorine | 12.3 ml, 39.4 g | ClCl | Cl2
solvent | water | Ninety ml | O | H2O
product | 2-furansulfonyl chloride | 44 g | O1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO3S
